US07517995B2
tert-butyl[3-(N′-isobutyryl-hydrazino)-3-oxo-propyl]-carbamate
25.00 g (132 mmol) 3-tert-butoxycarbonylamino-propionic acid, 13.50 g (132 mmol) isobutyric acid hydrazide, 50.91 g (159 mmol) O-(1H-benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate (TBTU) and 50 ml diisopropylethylamine are stirred in 500 ml of tetrahydrofuran/dichloromethane for 24 hours at ambient temperature. Then the mixture is evaporated down, the residue is extracted with ethyl acetate and 10% potassium hydrogen carbonate solution. The organic phase is dried and evaporated to dryness. The residue is crystallised from toluene/isopropylether.

reactant | 3-tert-butoxycarbonylamino-propionic acid | 132 mmol, 25.00 g | C(C)(C)(C)OC(=O)NCCC(=O)O | C8H15NO4
reactant | isobutyric acid hydrazide | 132 mmol, 13.50 g | C(C(C)C)(=O)NN | C4H10N2O
reactant | O-(1H-benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate | 159 mmol, 50.91 g | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | diisopropylethylamine | 50 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | tetrahydrofuran dichloromethane | 500 ml | O1CCCC1.ClCCl
product | tert-butyl[3-(N′-isobutyryl-hydrazino)-3-oxo-propyl]-carbamate | C(C)(C)(C)OC(NCCC(=O)NNC(C(C)C)=O)=O | C12H23N3O4
